reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C-:2]1([H:11])[C@@:3]([C:5]#[N:6])([H:12])[N+:4]1([H:13])[H:14].[C:1]([H:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],18.72716225592329
[O:1]=[C:2]([C:3]#[C:4][H:6])[H:5]>>[O:1]=[C:2]=[C:3]=[C:4]([H:5])[H:6],77.51413540607909
[C:1]([C+:2]([N:3]([C:4](=[C:5]=[N-:6])[H:13])[H:12])[H:10])([H:7])([H:8])[H:9].[H:11][H:14]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],18.2896549417668
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4](=[O:5])[N+:7]([H:14])=[C-:6]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],65.1346425106688
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([N:3]=[N:4][H:9])[H:10])[H:8].[O+:5]#[C-:6],101.079974137053
[N:1](=[C:2]1\[O:3][C:4](=[O:5])[O:7][C:6]1([H:9])[H:10])\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],97.29426409450751
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]([O+:7]=[C-:6][H:17])([H:14])[C:5]1([H:15])[H:16])([H:8])([H:9])[H:10],110.914624673375
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C@:4]([C:5]([H:16])([H:17])[H:18])([H:15])/[C:6]1=[N:7]/[H:9],92.2175277435112
[C:1]([C:2]([C:3]([O:5][H:16])=[C:6]=[C:7]([C:4]([H:13])([H:14])[H:15])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],96.44729537047026
[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:3]([C:4]([C-:2]=[C:5]=[C+:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],97.8156774807102
[C:1]([C:2]([O:3][H:11])=[C:4]([O-:5])[N+:6]([H:10])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],33.167597498909394
[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]=[C:5]([O:6][H:14])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:13],76.8116315474297
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])[H:9].[O:3]([H:10])[H:11],68.2992055472491
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:10])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])[H:9],66.8358264969675
[O:1]=[C:2](/[C:7](=[C:6]1\[N:3]([H:9])[C:4]([H:10])([H:11])[C:5]1([H:12])[H:13])[H:14])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],86.37888137213079
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]1[C@:3]([N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])([H:11])[O:4]1)([H:8])([H:9])[H:10],126.96546185892299
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],51.170028834506795
[C:1]([C:2]([C:3]([C:4]([C:5](=[O+:6][C-:7]([H:19])[H:20])[H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][H:21]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],1.350044390036615
[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1](=[N:2]/[N:3]=[C:4](\[N:5]=[N:6]\[H:8])[H:10])([H:7])[H:9],77.7125774080657
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:11])[H:12])[H:10])([H:7])[H:8].[O:6]([H:9])[H:13],64.10457316183721
[N:1]([C:2](=[O+:3][C-:4]([H:10])[H:11])[H:9])([C:6]1=[N:7][C:5]1([H:12])[H:13])[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],20.74550624166001
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])[H:10].[O:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])[H:9],87.20447107976791
[O:1]([C@@:2]12[C:3]([H:9])([H:10])[C@@:4]3([H:11])[C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15])[H:8]>>[O:1]([C@:2]1([C:3]([H:9])([H:10])[H:12])[C@@:6]2([H:14])[C:5]([H:13])=[C:4]([H:11])[C@@:7]12[H:15])[H:8],103.09433284211399
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]1[C@:2]2([H:8])[C@@:3]3([H:9])[C:4]([H:10])([H:11])[C@:6]([H:12])([N:5]13)[O:7]2,105.511167464553
